US07037938B2
To a solution of tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate (5.0 g) and 2,6-lutidine (2.97 ml) in dichloromethane (75 ml) was added trifluoromethanesulfonic anhydride (2.36 ml) dropwise at −70° C. under nitrogen and the mixture was stirred at −70° C. for 30 minutes. The mixture was allowed to warm to room temperature and evaporated under reduced pressure. The residue was partitioned between ethyl acetate and water. The organic layer was separated, washed with saturated sodium biscarbonate solution and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give 4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]phenyl trifluoromethanesulfonate (6.6 g).

reactant | tert-butyl [(2R)-2-(3-chlorophenyl)-2-hydroxyethyl][2-(4-hydroxyphenyl)ethyl]carbamate | 5.0 g | ClC=1C=C(C=CC1)[C@H](CN(C(OC(C)(C)C)=O)CCC1=CC=C(C=C1)O)O | C21H26ClNO4
reactant | 2,6-lutidine | 2.97 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 2.36 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 4-[2-[(tert-butoxycarbonyl)[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]-amino]ethyl]phenyl trifluoromethanesulfonate | 6.6 g | FC(S(=O)(=O)OC1=CC=C(C=C1)CCN(C[C@H](O)C1=CC(=CC=C1)Cl)C(=O)OC(C)(C)C)(F)F | C22H25ClF3NO6S
